US04367238
Hydriodic acid (58%, 10 ml) was added dropwise to a solution of 2-[2-methoxy-3-(2-chlorophenylthio)phenyl]acetic acid (1.4 g) in acetic anhydride (5 ml), and the mixture was refluxed under heating for 15 minutes. After cooling, the reaction mixture was poured into an aqueous solution of sodium hydrogen sulfite. The mixture was extracted with diethyl ether, and the extract was washed with aqueous sodium hydrogen sulfite and water in turn, dried and then evaporated under reduced pressure. To the residue was added acetic anhydride (10 ml), and the mixture was refluxed under heating for 10 minutes, and then evaporated under reduced pressure to give crystalline 7-(2-chlorophenylthio)-2,3-dihydrobenzofuran-2-one (1.1 g). This product was recrystallized from ethanol to give the pure product (0.8 g), mp. 145°-146° C.

reactant | Hydriodic acid | 10 ml | I | HI
reactant | 2-[2-methoxy-3-(2-chlorophenylthio)phenyl]acetic acid | 1.4 g | COC1=C(C=CC=C1SC1=C(C=CC=C1)Cl)CC(=O)O | C15H13ClO3S
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 7-(2-chlorophenylthio)-2,3-dihydrobenzofuran-2-one | 1.1 g | ClC1=C(C=CC=C1)SC1=CC=CC=2CC(OC21)=O | C14H9ClO2S
